US07595312B2
1f tert.-butyl (S)-3-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-((R)-4-benzyl-2-oxo-oxazolidin-3-yl)-4-oxo-butanoate
Under an argon atmosphere 63.24 mL (63.24 mmol) of a sodium-bis(trimethylsilyl)-amide solution (1 M in THF) was added dropwise to a solution of 22.5 g (52.71 mmol) of (R)-3-[3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-propionyl]-4-benzyl-oxazolidin-2-one in 105 mL THF which had been cooled to −78° C. and the mixture was stirred for 2 h at −78° C. 38.9 mL (263.5 mmol) of tert.butyl bromoacetate were added dropwise to the reaction mixture at −78° C., this was stirred for a further 24 h at −78° C. and then heated to RT. After the addition of 200 mL of a saturated NH4Cl solution the mixture was extracted twice with 300 mL of EtOAc, the combined org. phases were dried over Na2SO4 and evaporated down i. vac. The residue remaining was purified by chromatography on silica gel. The desired product was obtained in the form of a yellow oil.

reactant | sodium-bis(trimethylsilyl)-amide | 63.24 mmol, 1 M, 63.24 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | (R)-3-[3-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-propionyl]-4-benzyl-oxazolidin-2-one | 52.71 mmol, 22.5 g | NC1=C(C=C(C=C1C(F)(F)F)CCC(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O)Cl | C20H18ClF3N2O3
reactant | tert.butyl bromoacetate | 263.5 mmol, 38.9 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | NH4Cl | 200 mL | [NH4+].[Cl-]
solvent | THF | 105 mL | C1CCOC1 | C4H8O
product | tert.-butyl (S)-3-(4-amino-3-chloro-5-trifluoromethyl-benzyl)-4-((R)-4-benzyl-2-oxo-oxazolidin-3-yl)-4-oxo-butanoate | NC1=C(C=C(C[C@@H](CC(=O)OC(C)(C)C)C(=O)N2C(OC[C@H]2CC2=CC=CC=C2)=O)C=C1C(F)(F)F)Cl | C26H28ClF3N2O5
